US04748239
(G) (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride
(cis)-3-Hydroxy-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride (1.27 g, 2.83 mmol) was slurried in 28 ml of acetic anhydride and heated at 100° C. under argon for 3 hours. The resulting solution was then concentrated and the residue dissolved in ethyl acetate. After crystallization commenced, hydrogen chloride saturated ether was added and the mixture was filtered to afford 1.25 g of the desired material as an off-white powder, melting point 215°-216° C.

reactant | (cis)-3-Hydroxy-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | 2.83 mmol, 1.27 g | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=CC=C2)CCN(C)C)=O
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | 1.25 g | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=CC=C2)CCN(C)C)=O | InChI=1S/C23H28N2O4.ClH/c1-16(26)29-22-20(17-9-11-19(28-4)12-10-17)15-18-7-5-6-8-21(18)25(23(22)27)14-13-24(2)3;/h5-12,20,22H,13-15H2,1-4H3;1H/t20-,22+;/m1./s1
